US07723367B2
2-(2-Oxa-5-aza-bicyclo[2.2.1]hept-5-yl)-nicotinonitrile
The product from Example 88B (1.57 g, 7.9 mmol) in dichloromethane (25 mL) was treated with trifluoroacetic acid (5 mL) for 30 min at rt. The reaction mixture was concentrated to dryness. To the residue was added 2-fluoro-nicotinonitrile (1.0 g, 8.19 mmol) and diisopropyl ethylamine (3.2 mL) in tetrahydrofuran (8 mL). The reaction mixture was heated at 115° C. for 10 min under microwave condition. The mixture was concentrated to dryness, and the residue was chromatographed using hexane/ethyl acetate (9:1-6:1) to give the title compound (806 mg, 51%). MS (DCI/NH3) m/z 202 (M+1)+. 1HNMR (400 MHz, CDCl3) δ ppm 1.98 (s, 2H) 3.67 (d, J=10.13 Hz, 1H) 3.91 (dd, J=7.98, 1.53 Hz, 1H) 3.96 (m, 2H) 4.69 (s, 1H) 5.16 (s, 1H) 6.64 (dd, J=7.67, 4.91 Hz, 1H) 7.71 (dd, J=7.36, 1.84 Hz, 1H) 8.26 (dd, J=4.60, 1.84 Hz, 1H).

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-fluoro-nicotinonitrile | 8.19 mmol, 1.0 g | FC1=C(C#N)C=CC=N1 | C6H3FN2
reactant | diisopropyl ethylamine | 3.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 2-(2-Oxa-5-aza-bicyclo[2.2.1]hept-5-yl)-nicotinonitrile | 806 mg, 51% | C12OCC(N(C1)C1=C(C#N)C=CC=N1)C2 | C11H11N3O
